US09403845B2
Preparation of 2-[1-(3-pyridyl)pyrazol-4-yl]-6,7-dihydro-5H-1,3-benzothiazol-4-one
1-(3-pyridyl)pyrazole-4-carbothioamide (2.50 mmol, 0.510 g) and 3-bromo-2-hydroxy-cyclohex-2-en-1-one (2.50 mmol, 0.477 g, described in Tet. Lett. 2011, 52, 3633) were suspended in 10 ml acetic acid and the reaction mixture heated to reflux for 20 h. The reaction was cooled down to room temperature, diluted with water, slowly neutralised by dropwise addition in a saturated NaHCO3 solution, and the aqueous phase was extracted with DCM. The combined organic phases were dried over Na2SO4, filtered and concentrated. The crude material was purified by Combiflash to give a solid which was crystallized in diethylether to yield the title compound as a light yellow solid.

reactant | 1-(3-pyridyl)pyrazole-4-carbothioamide | 2.50 mmol, 0.510 g | N1=CC(=CC=C1)N1N=CC(=C1)C(N)=S | C9H8N4S
reactant | 3-bromo-2-hydroxy-cyclohex-2-en-1-one | 2.50 mmol, 0.477 g | BrC1=C(C(CCC1)=O)O | C6H7BrO2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-[1-(3-pyridyl)pyrazol-4-yl]-6,7-dihydro-5H-1,3-benzothiazol-4-one | N1=CC(=CC=C1)N1N=CC(=C1)C=1SC2=C(N1)C(CCC2)=O | C15H12N4OS
